US04247700
2-(4-Carboethoxy-1-piperidylmethyl)propenenitrile
Cyanoacetic acid (8.6 g., 0.1 mole) was dissolved in 35 ml. of dioxane. 4-Carboethoxypiperidine (15.7 g., 0.1 mole) was added--a precipitate rapidly formed. When one-half was added 10 ml. of water was then admixed and the temperature controlled below 24° C. until complete addition. With ice bath cooling, 37% aqueous formaldehyde (18 g., 0.2 mole) was dripped in over an 8-minute period and the temperature allowed to rise to 29° C. accompanied by vigorous carbon dioxide evolution. Two phases separated and stirring was continued for an additional 12 hours. After concentration in a bath at 45° C. and under reduced pressure, 22.4 g. of an oil resulted. The product was distilled, b.p., 130°-132° C./0.6 mm., yield, 16.3 g.

reactant | Cyanoacetic acid | 0.1 mole, 8.6 g | C(#N)CC(=O)O | C3H3NO2
reactant | 4-Carboethoxypiperidine | 0.1 mole, 15.7 g | C(=O)(OCC)C1CCNCC1 | C8H15NO2
reactant | formaldehyde | 0.2 mole, 18 g | C=O | CH2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-Carboethoxy-1-piperidylmethyl)propenenitrile | C(=O)(OCC)C1CCN(CC1)CC(C#N)=C | C12H18N2O2
